US04621084
6-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-4-methyl-3-oxo-3,4-dihyro-2H-1,4-benzothiazine (1.9 g) was prepared in the substantially same manner as that of Example 4 from 6-(2-bromopropionyl)-4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine (3.14 g) and 2-amino-4-methyl-pyridine (3.24 g).

reactant | 6-(2-bromopropionyl)-4-methyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazine | 3.14 g | BrC(C(=O)C=1C=CC2=C(N(C(CS2)=O)C)C1)C | C12H12BrNO2S
reactant | 2-amino-4-methyl-pyridine | 3.24 g | NC1=NC=CC(=C1)C | C6H8N2
product | 6-(3,7-Dimethylimidazo[1,2-a]pyridin-2-yl)-4-methyl-3-oxo-3,4-dihyro-2H-1,4-benzothiazine | 1.9 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(N(C(CS1)=O)C)C2 | C18H17N3OS
